*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMZR500ARA221MHA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-55deg.C/105deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR500ARA221MHA0G_20deg-C 1 2

C1 4 2 4.37e-05
C2 5 2 1.40e-04
C3 6 2 2.60e-05
R1 3 4 1.02e-01
R2 4 5 4.78e-02
R3 5 6 7.06e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZR500ARA221MHA0G_-55deg-C 1 2

C1 4 2 1.86e-07
C2 5 2 2.81e-05
C3 6 2 1.58e-04
R1 3 4 1.01e+00
R2 4 5 7.05e-01
R3 5 6 1.00e+00
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZR500ARA221MHA0G_105deg-C 1 2

C1 4 2 8.31e-05
C2 5 2 1.36e-04
C3 6 2 1.41e-05
R1 3 4 4.38e-02
R2 4 5 2.43e-02
R3 5 6 5.09e+00
L1 1 3 3.90e-09

.ENDS
*$
